US07517875B2
After dissolving 2-[(piperidin-4-ylmethyl)-amino]-1H-benzimidazole-4-carboxylic acid (2-methoxy-ethyl)-amide (20 mg, 0.049 mmol) in dimethylsulfoxide-acetic acid (10:1, 0.50 ml), 2-hydroxy-5-chlorobenzaldehyde (23 mg, 0.15 mmol) and sodium triacetoxyborohydride (31 mg, 0.15 mg) were added and the mixture was stirred at 50° C. for 2 days. Methanol (1 ml) was added to the reaction mixture, and after stirring for 1 minute, the mixture was purified by SCX solid phase extraction (Bond Elute SCX500MG). The product was further purified by preparative HPLC to obtain 2-{[1-(5-chloro-2-hydroxy-benzyl)-piperidin-4-ylmethyl]-amino}-1H-benzimidazole-4-carboxylic acid (2-methoxy-ethyl)-amide. The compound was identified by LC-MS.

reactant | 2-[(piperidin-4-ylmethyl)-amino]-1H-benzimidazole-4-carboxylic acid (2-methoxy-ethyl)-amide | 0.049 mmol, 20 mg | COCCNC(=O)C1=CC=CC=2NC(=NC21)NCC2CCNCC2 | C17H25N5O2
reactant | 2-hydroxy-5-chlorobenzaldehyde | 0.15 mmol, 23 mg | OC1=C(C=O)C=C(C=C1)Cl | C7H5ClO2
reactant | sodium triacetoxyborohydride | 31 mg | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
reactant | Methanol | 1 ml | CO | CH4O
solvent | dimethylsulfoxide acetic acid | 0.50 ml | CS(=O)C.C(C)(=O)O
product | 2-{[1-(5-chloro-2-hydroxy-benzyl)-piperidin-4-ylmethyl]-amino}-1H-benzimidazole-4-carboxylic acid (2-methoxy-ethyl)-amide | COCCNC(=O)C1=CC=CC=2NC(=NC21)NCC2CCN(CC2)CC2=C(C=CC(=C2)Cl)O | C24H30ClN5O3
